US07547691B2
Racemic 2-{5-Chloro-2-[3-(2-isopropylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide
Using the method of racemic 2-[5-methyl-2-(3-piperidin-3-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide, the title compound is synthesized from 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and racemic 4-(3-aminopropyl)-3-isopropylpiperazine-1-carboxylic acid tert-butyl ester and isolated as a solid. ES+(m/z) 513 (35Cl) and 515 (37Cl) [M+H].

reactant | racemic 2-[5-methyl-2-(3-piperidin-3-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCC2CNCCC2 | C25H31N5OS
reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C16H11Cl2N3OS
reactant | racemic 4-(3-aminopropyl)-3-isopropylpiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)CCCN)C(C)C | C15H31N3O2
product | Racemic 2-{5-Chloro-2-[3-(2-isopropylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2C(CNCC2)C(C)C | C26H33ClN6OS
